US06291721B1
A mixture of α-bromo-4-fluoro-3-phenoxytoluene (4.86 g, 17.3 mmol) and sodium sulfite (2.39 g, 19 mmol) in 50% aqueous methanol (20 mL) is heated at reflux for 5 hours and cooled to room temperature. The resultant colorless solid is collected by filtration and washed with chilled 50% aqueous methanol and methanol to obtain 3.4 g of sodium (4-fluoro-3-phenoxyphenyl)methanesulfonate. Another 1.8 g of product is recovered from the mother liquors.

reactant | α-bromo-4-fluoro-3-phenoxytoluene | 17.3 mmol, 4.86 g | BrCC1=CC(=C(C=C1)F)OC1=CC=CC=C1 | C13H10BrFO
reactant | sodium sulfite | 19 mmol, 2.39 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | sodium (4-fluoro-3-phenoxyphenyl)methanesulfonate | 3.4 g | FC1=C(C=C(C=C1)CS(=O)(=O)[O-])OC1=CC=CC=C1.[Na+] | InChI=1S/C13H11FO4S.Na/c14-12-7-6-10(9-19(15,16)17)8-13(12)18-11-4-2-1-3-5-11;/h1-8H,9H2,(H,15,16,17);/q;+1/p-1
